US06693123B2
To a solution in methanol (5 mL) of [4-(3-pyridylmethyloxymethyl)-2-phenylbenzoic acid methyl ester (0.58 g), prepared as in Example 183A, was added saturated aqueous lithium hydroxide and the reaction mixture was stirred overnight at ambient temperature. The reaction mixture was warmed to 60° C. and stirred for 4 hours. The reaction mixture was concentrated in vacuo and the residue was taken up in water. The aqueous phase was taken to pH 5 with aqueous 3N HCl and extracted with chloroform. The organic phase was concentrated in vacuo to give 4-(3-pyridylmethyloxymethyl)-2-phenylbenzoic acid (0.52 g).

reactant | 4-(3-pyridylmethyloxymethyl)-2-phenylbenzoic acid methyl ester | 0.58 g | COC(C1=C(C=C(C=C1)COCC=1C=NC=CC1)C1=CC=CC=C1)=O | C21H19NO3
reactant | lithium hydroxide | [OH-].[Li+]
solvent | methanol | 5 mL | CO | CH4O
product | 4-(3-pyridylmethyloxymethyl)-2-phenylbenzoic acid | 0.52 g | N1=CC(=CC=C1)COCC1=CC(=C(C(=O)O)C=C1)C1=CC=CC=C1 | C20H17NO3
